US05134231
Methyl (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylate hydrochloride (110 mg) was dissolved in conc. hydrochliric acid (0.9 ml), and the resultant mixture was refluxed for 2 hours. After cooling, the reaction mixture was diluted with ethanol and distilled under reduced pressure. The residue was purified by thin layer chromatography to give (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylic acid.

reactant | Methyl (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylate hydrochloride | 110 mg | Cl.CC1OC(C(C(C1C(=O)OC)NCC1=CC=CC=C1)C)=O
solvent | ethanol | C(C)O | C2H6O
product | (2SR,3SR,4RS,5RS)-tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylic acid | CC1OC(C(C(C1C(=O)O)NCC1=CC=CC=C1)C)=O | C15H19NO4
